US08754107B2
A solution of 4-phenyl-piperidine-4-carboxylic acid (0.168 g, 0.819 mmol) in THF (2 mL) was added dropwise to a 0° C. solution of lithium aluminum hydride (1.0N in THF, 1.63 mL, 1.64 mmol). The reaction was stirred at room temperature for about 16 h. Water (1 mL) was added to the reaction mixture, followed by 2 N NaOH (1 mL). The solution was stirred for about 1 h then filtered. The filtrate was extracted with DCM (25 mL) and the organic layer was separated. The aqueous layer was further extracted with dichloromethane (2×25 mL). The combined organic extracts were dried over magnesium sulfate, filtered and evaporated under reduced pressure to give (4-phenyl-piperidin-4-yl)-methanol (0.078 g, 0.41 mmol) as brown oil, which was used in subsequent reactions without further purification. RP-HPLC (Table 1, Method b) Rt 1.24 min; m/z: (M+H)+ 192.

reactant | 4-phenyl-piperidine-4-carboxylic acid | 0.819 mmol, 0.168 g | C1(=CC=CC=C1)C1(CCNCC1)C(=O)O | C12H15NO2
reactant | lithium aluminum hydride | 1.64 mmol, 1.0N, 1.63 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 1 mL | O | H2O
reactant | NaOH | 2 N, 1 mL | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (4-phenyl-piperidin-4-yl)-methanol | 0.41 mmol, 0.078 g | C1(=CC=CC=C1)C1(CCNCC1)CO | C12H17NO
